US07951963B2
To 1,2-dimethoxyethane (10 mL) solution of 0.11 g of 10% (w/w) tri(tert-butyl)phosphine/hexane were added 0.02 g of tris(dibenzylideneacetone)dipalladium(0), 1.76 g of cesium carbonate, 0.50 g of 5-bromobenzothiophene and 0.61 g of tert-butyl malonate, which was then refluxed for 2 hours. Next, thereto were added 0.02 g of tris(dibenzylideneacetone)dipalladium(0) and 0.11 g of 10% (w/w) tri(tert-butyl)phosphine/hexane, which was then refluxed for 1 hour. This reaction mixture was added to a mixed solution of 30 mL of water and 20 mL of ethyl acetate, and the pH was adjusted to 3 with 6 mol/L hydrochloric acid. The organic layer was separated, and dried over anhydrous magnesium sulfate, followed by distilling off the solvent under reduced pressure. The resultant residue was purified using silica gel column chromatography (eluent; hexane:ethyl acetate=20:1) to provide 0.49 g of di(tert-butyl) 2-(1-benzothiophen-5-yl)malonate as white solid form.

reactant | tri(tert-butyl)phosphine hexane | C(C)(C)(C)P(C(C)(C)C)C(C)(C)C.CCCCCC
reactant | cesium carbonate | 1.76 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 5-bromobenzothiophene | 0.50 g | BrC=1C=CC2=C(C=CS2)C1 | C8H5BrS
reactant | tert-butyl malonate | 0.61 g | C(CC(=O)[O-])(=O)OC(C)(C)C
reactant | hydrochloric acid | 6 mol/L | Cl | ClH
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.02 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.02 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
solvent | water | 30 mL | O | H2O
solvent | 1,2-dimethoxyethane | 10 mL | COCCOC | C4H10O2
product | di(tert-butyl) 2-(1-benzothiophen-5-yl)malonate | 0.49 g | S1C=CC2=C1C=CC(=C2)C(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C19H24O4S
